US06946489B2
d) 2-[3-(N-Hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide
A solution of 1.40 g (3.12 mmol) of 2-(3-cyanophenoxy)pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide in 50 ml of methanol is treated with 695 mg (10.0 mmol) of hydroxylammonium chloride hydrochloride and 1.01 g (10.0 mmol) of triethylamine and stirred at 60° C. for 18 hours. It is allowed to cool, the solvent is stripped off, the residue is taken up in water and the resulting precipitate is filtered off. A colourless solid is obtained; FAB 482

reactant | 2-(3-cyanophenoxy)pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide | 3.12 mmol, 1.40 g | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC(=CC=C1)C#N)=O | C25H24N2O4S
reactant | hydroxylammonium chloride hydrochloride | 10.0 mmol, 695 mg | Cl.[Cl-].O[NH3+]
reactant | triethylamine | 10.0 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[3-(N-Hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC(=CC=C1)C(NO)=N)=O | C25H27N3O5S
